US07759518B2
Step D: 1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-(2-methoxyethoxy)phenyl)cyclopropane-1-sulfonamide
According to the general procedure B, 1-allyl-cyclopropanesulfonyl chloride (450 mg, 2.5 mmol) was reacted with 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)-3-(2-methoxyethoxy)benzene-1,2-diamine (219 mg, 2.5 mmol) to obtain the title product (230 mg, 78%); m/z=581 [M−1]−.

reactant | 1-allyl-cyclopropanesulfonyl chloride | 2.5 mmol, 450 mg | C(C=C)C1(CC1)S(=O)(=O)Cl | C6H9ClO2S
reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)-3-(2-methoxyethoxy)benzene-1,2-diamine | 2.5 mmol, 219 mg | FC1=CC(=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N)OCCOC | C15H14F3IN2O2
product | 1-Allyl-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)-6-(2-methoxyethoxy)phenyl)cyclopropane-1-sulfonamide | 230 mg, 78% | C(C=C)C1(CC1)S(=O)(=O)NC1=C(C(=C(C=C1OCCOC)F)F)NC1=C(C=C(C=C1)I)F | C21H22F3IN2O4S
